US08648087B2
Step H: Preparation of 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzenamine:
A vial was charged with 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzoic acid (0.090 g, 0.2925 mmol), triethylamine (0.1223 ml, 0.8776 mmol) and DMF (1.5 ml). Diphenylphosphoryl azide (0.1630 ml, 0.7313 mmol) was added. The reaction was stirred at ambient temperature for 3 hours, then water (0.2199 ml, 0.2925 mmol) was added. The vial was sealed and heated to 100° C. for 1 hour, then cooled to ambient temperature and poured into 1 N NaOH/ice. The reaction was extracted with EtOAc, and the organic layer was dried, filtered and concentrated. The residue was purified by flash chromatography, eluting with a gradient from 100% EtOAc to 10% (with 6% NH4OH) MeOH/EtOAc.

reactant | 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzoic acid | 0.2925 mmol, 0.090 g | N=1C=NN2C1C=C(C=C2)OC2=C(C(=C(C(=O)O)C=C2)F)Cl | C13H7ClFN3O3
reactant | triethylamine | 0.8776 mmol, 0.1223 ml | C(C)N(CC)CC | C6H15N
reactant | Diphenylphosphoryl azide | 0.7313 mmol, 0.1630 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | water | 0.2925 mmol, 0.2199 ml | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 4-([1,2,4]triazolo[1,5-a]pyridin-7-yloxy)-3-chloro-2-fluorobenzenamine | N=1C=NN2C1C=C(C=C2)OC2=C(C(=C(C=C2)N)F)Cl | C12H8ClFN4O
